US09334464B2
Preparation of (1R,2S,5R)-2-isopropyl-5-methylcyclohexyl 2-oxo-2-phenylacetate
A Grignard reagent prepared from bromobenzene (2.36 g, 15.0 mmol) and magnesium (0.39 g, 16.0 mmol) in THF (25 ml) was added dropwise to a stirred solution of bis((1R,2S,5R)-2-isopropyl-5-methylcyclohexyl) oxalate (5.00 g, 13.7 mmol) in THF (25 ml) at −78° C. The mixture was slowly warmed to room temperature, quenched with a saturated solution of NH4Cl (50 ml) and ice. The reaction mixture was extracted with ether (2×) and water (2×) and the organic phase dried (Na2SO4). Repetitive column chromatography (SiO2, heptane/ether 9:1) gave 1.28 g (32%) of the pure product as a slightly yellow oil.

reactant | bromobenzene | 15.0 mmol, 2.36 g | BrC1=CC=CC=C1 | C6H5Br
reactant | magnesium | 16.0 mmol, 0.39 g | [Mg] | Mg
reactant | bis((1R,2S,5R)-2-isopropyl-5-methylcyclohexyl) oxalate | 13.7 mmol, 5.00 g | C(C(=O)O[C@H]1[C@@H](CC[C@H](C1)C)C(C)C)(=O)O[C@H]1[C@@H](CC[C@H](C1)C)C(C)C | C22H38O4
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | (1R,2S,5R)-2-isopropyl-5-methylcyclohexyl 2-oxo-2-phenylacetate | 1.28 g, 32% | O=C(C(=O)O[C@H]1[C@@H](CC[C@H](C1)C)C(C)C)C1=CC=CC=C1 | C18H24O3
